US04357351
1,3-bis-n-heptyl-1-chlorocarbonyl-2-ethyl isothiourea
100 ml of dry CH2Cl2 was placed in a 500 ml flask equipped with a thermometer and dropping funnel and cooled to 5° C. in an ice bath. A solution of phosgene in benzene (170 g of 17.5 percent weight concentration) was then added. Next, a solution of 100 ml of dry CH2Cl2, 10.1 g triethylamine and 30 g of 1,3-diheptyl-2-ethyl isothiourea was added dropwise over a one hour period at 5° C. The mixture was then stirred overnight at ambient temperature.

reactant | CH2Cl2 | 100 ml | C(Cl)Cl | CH2Cl2
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | CH2Cl2 | 100 ml | C(Cl)Cl | CH2Cl2
reactant | triethylamine | 10.1 g | C(C)N(CC)CC | C6H15N
reactant | 1,3-diheptyl-2-ethyl isothiourea | 30 g | C(CCCCCC)NC(SCC)=NCCCCCCC | C17H36N2S
solvent | benzene | 170 g | C1=CC=CC=C1 | C6H6
product | 1,3-bis-n-heptyl-1-chlorocarbonyl-2-ethyl isothiourea | C(CCCCCC)N(C(SCC)=NCCCCCCC)C(=O)Cl | C18H35ClN2OS
